US07592358B2
22.1e. 2-(2-chloromethylbenzo[b]thiophen-5-ylethynyl)-5-(4-chlorophenyl)pyridine
1.07 mL (15 mmol) of thionyl chloride was added to a solution of 1.1 g (2.93 mmol) of {5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]benzo[b]thiophen-2-yl}methanol in 20 mL of DCM cooled to 0° C. and the reaction mixture was stirred for 70 hours at RT. It was evaporated down in vacuo, the residue was combined with semisaturated sodium bicarbonate solution, extracted exhaustively with DCM, and the combined organic phases were washed twice with water and dried over magnesium sulfate. After the desiccant and solvent had been eliminated, the residue was purified by chromatography (silica gel, PE/EtOAc 7:3). Yield: 0.65 g (56% of theoretical); C22H13Cl2NS (M=394.317); calc.: molpeak (M+H)+: 394/396/398 (2Cl); found: molpeak (M+H)+: 394/396/398 (2Cl); HPLC-MS: 7.6 minutes (method B).

reactant | thionyl chloride | 15 mmol, 1.07 mL | S(=O)(Cl)Cl | Cl2OS
reactant | {5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]benzo[b]thiophen-2-yl}methanol | 2.93 mmol, 1.1 g | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC2=C(SC(=C2)CO)C=C1 | C22H14ClNOS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-chloromethylbenzo[b]thiophen-5-ylethynyl)-5-(4-chlorophenyl)pyridine | ClCC1=CC2=C(S1)C=CC(=C2)C#CC2=NC=C(C=C2)C2=CC=C(C=C2)Cl | C22H13Cl2NS
